US05334576
Preparation of diethyl 6-chloropyridine-2,3-dicarboxylate
A mixture of 75.6 g of diethyl pyridine-2,3-dicarboxylate-N-oxide and 150 mL of phosphorous oxychloride is warmed slowly in a large reaction vessel equipped with a reflux condenser and gas scrubber. Caution: exothermic reaction! At about 70°, an exothermic reaction ensues with vigorous liberation of hydrogen chloride gas. The reaction is heated at reflux after the exotherm subsides for an additional hour. The reaction is cooled and concentrated in vacuo to a syrup. This material is dissolved in methylene chloride, washed cautiously with saturated sodium bicarbonate, dried and concentrated in vacuo to give the desired product as an oil. An analytical sample is obtained by chromatography on silica gel using 2:1 petroleum ether-ether as eluant to give the product as a colorless oil.

reactant | diethyl pyridine-2,3-dicarboxylate-N-oxide | 75.6 g | [N+]1(=C(C(=CC=C1)C(=O)OCC)C(=O)OCC)[O-] | C11H13NO5
reactant | hydrogen chloride | Cl | ClH
solvent | phosphorous oxychloride | 150 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | diethyl 6-chloropyridine-2,3-dicarboxylate | ClC1=CC=C(C(=N1)C(=O)OCC)C(=O)OCC | C11H12ClNO4
